US04361559
(C) 11β-Acetyloxy-17-(ethylthio)-9-fluoro-17-(phenylthio)androsta-1,4-dien-3-one, Isomer B
A solution of 1.0 g of 11β-acetyloxy-9-fluoro-17-(phenylthio)androsta-1,4,16-trien-3-one, 12 ml of dry dichloromethane and 0.5 ml of ethanethiol is cooled to -10° C. under nitrogen. Boron trifluoride etherate is then added. The solution is stirred at -10° C. under nitrogen for 2.5 hours. The resulting solution is diluted with dichloromethane, washed with saturated sodium bicarbonate and water, dried over anhydrous Na2SO4 and evaporated in vacuo to give a foamy solid. This is dissolved in chloroform and chromatographed on two precoated silica gel TLC plates (E. Merck, 20 cm×20 cm×2 mm, 1:4 ethyl acetate-chloroform for development) to give 800 mg of slightly impure title compound. This is crystallized from ethyl acetate-hexane to give 500 mg of title compound, melting point 145°-148° C., with consistent spectral data.

reactant | 11β-acetyloxy-9-fluoro-17-(phenylthio)androsta-1,4,16-trien-3-one | 1.0 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C([C@@]2(C)C1)SC1=CC=CC=C1)=O)C)F | C27H29FO3S
reactant | ethanethiol | 0.5 ml | C(C)S | C2H6S
reactant | Boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 11β-Acetyloxy-17-(ethylthio)-9-fluoro-17-(phenylthio)androsta-1,4-dien-3-one | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)(SC1=CC=CC=C1)SCC)=O)C)F | C29H35FO3S2
